US06506772B1
N-[5-Amino-2-(5-methyl-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylmethyl]-2-bromo-benzamide
The title compound was prepared in accordance with the general method of example 365 from 2-bromo-N-(2,6-diamino-pyridin-4-ylmethyl)-benzamide, o-mesitylene-sulfonylhydroxylamine, and 5-methyl-2-furaldehyde. The purification was performed with column chromatography on silica eluting with dichloromethane/ethylacetate 1:2.

reactant | 2-bromo-N-(2,6-diamino-pyridin-4-ylmethyl)-benzamide | BrC1=C(C(=O)NCC2=CC(=NC(=C2)N)N)C=CC=C1 | C13H13BrN4O
reactant | o-mesitylene-sulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
reactant | 5-methyl-2-furaldehyde | CC1=CC=C(O1)C=O | C6H6O2
product | N-[5-Amino-2-(5-methyl-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylmethyl]-2-bromo-benzamide | Yield: 21% | NC1=CC(=CC=2N1N=C(N2)C=2OC(=CC2)C)CNC(C2=C(C=CC=C2)Br)=O | C19H16BrN5O2
